US08309721B2
Synthesis of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzamide
58 mg of (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP), 18 mg of hydroxybenzotriazole (HOBT), 9 mg of ammonium chloride and 0.07 ml of diisopropylethylamine are successively added to a solution of 40 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzoic acid in 30 ml of N,N-dimethylformamide. The reaction mixture is stirred at ambient temperature for 2 hours and then diluted with distilled water and extracted with ethyl acetate. The organic phase is subsequently washed with distilled water and a saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane, acetonitrile and methanol (96/2/2 by volume), so as to gve 30 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzamide in the form of a white solid, the characteristics of which are the following:

reactant | (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 58 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hydroxybenzotriazole | 18 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ammonium chloride | 9 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.07 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzoic acid | 40 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NCCF | C27H19FN4O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(2-fluoroethyl)amino]benzamide | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NCCF | C27H20FN5O
